US07741327B2
2-[4-(2-Chloro-3-methoxyphenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-fluoro-4-methyl-pentanoic acid-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide
A solution of 2-[4-(2-chloro-3-methoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-fluoro-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (390 mg, 0.71 mmol) in tetrahydrofuran (10 mL) was treated with 2N aqueous hydrochloric acid solution (10 mL). The reaction mixture was stirred at 25° C. for 4 h. The reaction mixture was diluted with ethyl acetate, washed with water, saturated sodium bicarbonate solution, a saturated sodium chloride solution and dried over magnesium sulfate. The organic layer was concentrated to afford, 2-[4-(2-chloro-3-ethoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-fluoro-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (300 mg, 83%) as a white solid: LR-ES-MS m/z calculated for C23H28ClFN4O6 [M]+ 510, observed 511 [M+H]+; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.27, 1.32 (2×d, J=3.0 Hz, 3H), 1.36, 1.39 (2×d, J=3.0 Hz, 3H), 1.99-2.34 (m, 2H), 3.19-3.33 (m, 2H), 3.69-3.89 (m, 2H), 3.90 (s, 3H), 4.09 (dd, J=13.6, 3.6 Hz, 1H), 4.26 (d, J=18.4 Hz, 1H), 4.37-4.58 (m, 1H), 4.71 (t, J=5.6 Hz, 1H), 4.77, 4.80 (2×s, 1H), 4.94 (d, J=5.1 Hz, 1H), 5.08 (dd, J=9.5, 4.4 Hz, 1H), 6.41 (d, J=2.1 Hz, 1H), 7.00, 7.06 (2×d, J=8.2 Hz, 1H), 7.13 (d, J=8.2 Hz, 1H), 7.41 (t, J=8.2 Hz, 1H), 7.54 (d, J=2.1 Hz, 1H), 10.68, 10.79 (2×s, 1H)

reactant | 2-[4-(2-chloro-3-methoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-fluoro-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 0.71 mmol, 390 mg | CC1(OC[C@H](O1)CN1N=C(C=C1)NC(C(CC(C)(C)F)N1C(C=C(C1)OC1=C(C(=CC=C1)OC)Cl)=O)=O)C | C26H32ClFN4O6
reactant | hydrochloric acid | 2N, 10 mL | Cl | ClH
reactant | 2-[4-(2-chloro-3-ethoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-fluoro-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 300 mg | O[C@H](CN1N=C(C=C1)NC(C(CC(C)(C)F)N1C(C=C(C1)OC1=C(C(=CC=C1)OCC)Cl)=O)=O)CO | C24H30ClFN4O6
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2-Chloro-3-methoxyphenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-fluoro-4-methyl-pentanoic acid-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | O[C@H](CN1N=C(C=C1)NC(C(CC(C)(C)F)N1C(C=C(C1)OC1=C(C(=CC=C1)OC)Cl)=O)=O)CO | C23H28ClFN4O6
